US06727264B1
N-{3-[1-(3-HYDROXYPROPYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE:
Prepared by Procedure G and Scheme B1 using 3-chloro-1-propanol and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 305.3 (M+H)+.

reactant | 3-chloro-1-propanol | ClCCCO | C3H7ClO
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-{3-[1-(3-HYDROXYPROPYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE | OCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H28N2O2
